US05162324
1-(7-Methoxy-1-naphthyl)-4-[4-(4-fluorobenzoylamino)-1-butyl]piperazine hydrochloride
The expected compound was prepared from 1-(7-methoxy-1-naphthyl)-4-(4-amino-1-butyl)piperazine and 4-fluorobenzoyl chloride.

reactant | 1-(7-methoxy-1-naphthyl)-4-(4-amino-1-butyl)piperazine | COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCCCN | C19H27N3O
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 1-(7-Methoxy-1-naphthyl)-4-[4-(4-fluorobenzoylamino)-1-butyl]piperazine hydrochloride | Yield 60% | Cl.COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCCCNC(C1=CC=C(C=C1)F)=O | InChI=1S/C26H30FN3O2.ClH/c1-32-23-12-9-20-5-4-6-25(24(20)19-23)30-17-15-29(16-18-30)14-3-2-13-28-26(31)21-7-10-22(27)11-8-21;/h4-12,19H,2-3,13-18H2,1H3,(H,28,31);1H
